
E1 10 11 7 2 {N2N1}
E2 13 14 7 2 {N3N1}
VF1 4 11 0V
F1 7 2 VF1 {N2N1}
VF2 6 14 0V
F2 7 2 VF2 {N3N1}
Lm 7 2 {LMAG}
LP 8 7 {LPRI}
LS 10 9 {LSEC}
LT 13 12 {LTER}
RP 1 8 {RPRIM}
RS 9 3 {RSEC}
RT 12 5 {RTER}
.END
