.SUBCKT UC1843  3     14   15   1     18    4   20   2  
*              E/A   FDBK  IS  RT/CT  GND  OUT  VC  VREF



****OSCILLATOR*****
//////////////////////////////////////////////////////////////////////////////////////////////////////////////////S1 8 18 1 18 SOSC
/////////////////////////////////////////////////////////////////////////////////////////////////////////.MODEL SOSC SW(RON=.01 ROFF=1MEG VT=1.9 VH=.85)
////////////////////////////////////////////////////////////////////////////////////////////////BDISCH 1 18 I=V(8,18) < 2.5 ? V(13,18) > 2.5 ? 10M : 0
//////////////////////////////////////////////////////////////////////////////////////////////////////////RPULL 8 2 100K
****UVLO***********
/////////////////////////////////////////////////////////////////////////////////////////////////////////S4 20 19 20 18 SUVLO
/////////////////////////////////////////////////////////////////////////////////////////////////////////.MODEL SUVLO SW(RON=.01 ROFF=1MEG VT=8 VH=.4)
//////////////////////////////////////////////////////////////////////////////////////////////////////////RUVLO 19 18 1MEG
///////////////////////////////////////////////////////////////////////////////////////////////////////////RSTDBY 20 18 16.8K
//////////////////////////////////////////////////////////////////////////////////////////////////////////ROP 10 18 500
****REFERENCE*******
///////////////////////////////////////////////////////////////////////////////////////////////BREF 13 18 V=V(19,18) > 6 ? 5 : 0
///////////////////////////////////////////////////////////////////////////////////////////////RREG 10 2 .33
///////////////////////////////////////////////////////////////////////////////////////////////CREF 2 18 1n
///////////////////////////////////////////////////////////////////////////////////////////////V3 13 10 
//////////////////////////////////////////////////////////////////////////////////////////////B6 19 18 I=I(V3)
****CURRENT COMPARATOR*******
////////////////////////////////////////////////////////////////////////////////////////////////////////B3 21 18 V=V(15,18) > V(16,18) ? 5 : 0
//////////////////////////////////////////////////////////////////////////////////////////////////////////R7 15 18 1MEG
///////////////////////////////////////////////////////////////////////////////////////////////////////RDELAY 21 22 1K
//////////////////////////////////////////////////////////////////////////////////////////////////////////CDELAY 22 18 150P
****ERROR AMPLIFIER**********
///////////////////////////////////////////////////////////////////////////////////////////////////XAMP 2      14    3  18   1845AMP
/////////////////////////////////////////////////////////////////////////**                             VREF  INV  OUT   V-
****OFFSET LIMITER***********
/////////////////////////////////////////////////////////////////////////////////////////////////////R4 12 11 2MEG
//////////////////////////////////////////////////////////////////////////////////////////////////R6 11 18 1MEG
///////////////////////////////////////////////////////////////////////////////////////////////B2 16 18 V=V(11,18) > 1 ? 1 : V(11,18)
/////////////////////////////////////////////////////////////////////////////////////////////////////V4 3 9 1
///////////////////////////////////////////////////////////////////////////////////////////////D1 9 12 D2
////////////////////////////////////////////////////////////////////////////////////////////////////.MODEL D2 D 
****OUTPUT DRIVER************
///////////////////////////////////////////////////////////////////////////////////////////////////XDRIVE 19 18 5  4 1845OUT
///////////////////////////////////////////////////////////////////////* *                                +V -V IN OUT
****S-R LATCH****************
///////////////////////////////////////////////////////////////////////////////////////////////////////XLATCH 8    2  22 18  6     7   FFLOP
//////////////////////////////////////////////////////////////////////////////////**                          CLK  D  R  S   QBAR  Q 
****OUTPUT AND GATE**********
////////////////////////////////////////////////////////////////////////////B8 5 18 V=V(2,18) > 2.5 ? V(7,18) > 2.5 ? V(8,18) > 2.5 ? 10 : 0
.ENDS
*include pwmic.lib
*********
*SYM=1845AMP
.SUBCKT 1845AMP  4     1    9   20
*                VREF  INV  OUT V-
.MODEL QPMOD PNP()
.MODEL DCLAMP D (RS=10 BV=5 IBV=.01)
.MODEL DMOD D
////////////////////////////////////////////R1 10 4 100K
//////////////////////////////////////////R2 10 20 100K
////////////////////////////////////////////R3 6 20 316MEG
//////////////////////////////////////////////C1 6 20 15.9P
////////////////////////////////////////////////E1 5 20 6 20 1
///////////////////////////////////////////////////R4 1 20 8MEG
///////////////////////////////////////////////////////I2 4 9 .8m
/////////////////////////////////////////////////////D12 9 4 DMOD
/////////////////////////////////////////////////////////R6 20 3 300
////////////////////////////////////////////////////////D11 9 12 DMOD
/////////////////////////////////////////////////////Q1 20 13 12 QPMOD
///////////////////////////////////////////////////////I3 13 20 68U
//////////////////////////////////////////////////////////D14 3 13 DMOD
/////////////////////////////////////////////////////D15 20 6 DCLAMP
//////////////////////////////////////////////////L1 2 3 10U
////////////////////////////////////////////////////////////C2 3 20 200P
/////////////////////////////////////////////////////////R9 5 2 5
/////////////////////////////////////////////////////////////C5 2 20 .02U
/////////////////////////////////////////////////////////G1 20 6 10 1 100U
.ENDS
*********
*SYM=OUT
.SUBCKT 1845OUT  4  7  3  12
*                +V -V IN OUT
.MODEL QMOD NPN RC=1.5  RE=.5 RB=100  IKF=0.5
.MODEL QMOD2 NPN
.MODEL QIN NPN BF=100 BR=2 IS=1E-16 VAF=50 
+ CJE=1.5P CJC=.15P TR=1N TF=4N
.MODEL DMOD D RS=1 IS=0.4U
////////////////////////////////////I3 4 8 100U
///////////////////////////////////D3 8 4 DMOD
/////////////////////////////////////D4 12 8 DMOD
//////////////////////////////Q3 8 1 9 QIN
/////////////////////////////////Q4 12 9 7 QMOD
////////////////////////////////Q5 4 8 6 QMOD
///////////////////////////////////I4 7 1 .9M
/////////////////////////////////////R1 3 2 10K
////////////////////////Q8 1 2 7 QIN
//////////////////////////Q2 4 6 12 QMOD2
.ENDS
******************
*SYM=FFLOP
.SUBCKT FFLOP     1    2  11 12  5     6
*                 CLK  D  R  S   QBAR  Q 
.SUBCKT NAND3 1 2 3 4
B1 5 0 V=~(V(1)&V(2)&V(3))
R1 5 4 400
C1 4 0 20P IC={IC}
.ENDS
.SUBCKT INV 1 2
B1 3 0 V=~(V(1))
R1 3 2 100
C1 2 0 10P IC={IC}
.ENDS
X1 7 4 2 8 NAND3 {IC=0}
X2 8 3 10 9 NAND3 {IC=0}
X3 1 8 10 7 NAND3 {IC=3.5}
X4 4 9 1 10 NAND3 {IC=0}
X5 4 7 6 5 NAND3 {IC=3.5}
X6 5 10 3 6 NAND3 {IC=0}
X7 11 4 INV {IC=3.5}
X8 12 3 INV {IC=3.5}
.ENDS
********
